US04912098
Under the conditions of Example 9, 1.0 g of 11β,21-dihydroxy-17-isobutyryloxy-6α-methyl-4-pregnene-3,20-dione is reacted with propionic anhydride, worked up, and purified, thus obtaining 985 mg of 11β-hydroxy-17-isobutyryloxy-6α-methyl-21-propionyloxy-4-pregnene-3,20-dione.

reactant | 11β,21-dihydroxy-17-isobutyryloxy-6α-methyl-4-pregnene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(C(C)C)=O)C)=O)C | C26H38O6
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 11β-hydroxy-17-isobutyryloxy-6α-methyl-21-propionyloxy-4-pregnene-3,20-dione | 985 mg | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(CC)=O)=O)([C@]2(C1)C)OC(C(C)C)=O)C)=O)C | C29H42O7
